US07119120B2
To a mixture of 900 mL of MeOH and 100 mL water 4-bromoaniline (40.0 g, 0.232 mol) was added and the resulting solution was cooled in an ice bath. To this 35 mL of concentrated H2SO4 was added followed by a 1 M solution of ICl (255 mL 0.232 mol) in CH2Cl2. The bath was then removed and the reaction was stirred overnight. The volatiles were then removed by rotary evaporation, 200 mL of ice water was added to the product along with 500 mL CH2Cl2. The mixture was made strongly basic with 1 M NaOH and then extracted (3×CH2Cl2). The combined extracts were dried with Na2SO4 and then concentrated and dried in vacuo to give 2-iodo-4-bromoaniline. 1H-NMR (400 MHz, CDCl3): δ 4.1 (s, 2H, NH), 6.60 (m, 1H, NCH), 7.22 (m, 1H, CHCH), 7.77 (s, 1H, ICCHCBr). The crude product was then added to a mixture of acetyl chloride (36.0 g, 0.472 mol) and pyridine (56.0 g, 0.708 mol) in 1 L of dry THF cooled in an ice bath. The bath was then removed and the resulting mixture was stirred at room temperature overnight. THF was removed by rotary evaporation and then 400 mL of ice water was added. The product was extracted with CH2Cl2 (3×300 mL) and then the layers were combined and dried with Na2SO4. Silica column chromatography using mixtures of EtOAc and hexanes gave 12 g of 2-Iodo-4-bromoacetanilide. 1H-NMR (400 MHz, CDCl3): δ=2.24 (s, 3H, CH3), 7.39 (s, 1H, NH), 7.46 (d, 8.4 Hz, 1H, BrCCH), 7.90 (s, 1H, ICCHCBr), 8.13 (d, 8.0 Hz, 1H, NCCH).

reactant | MeOH | 900 mL | CO | CH4O
reactant | water 4-bromoaniline | 0.232 mol, 100 mL, 40.0 g | BrC1=CC=C(N)C=C1.O
reactant | H2SO4 | 35 mL | OS(=O)(=O)O | H2O4S
reactant | ICl | 0.232 mol, 255 mL | ICl | ClI
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-iodo-4-bromoaniline | IC1=C(N)C=CC(=C1)Br | C6H5BrIN
